US09216999B2
Benzyl 3-(hydroxymethyl)piperidine-1-carboxylate
3-Piperidinemethanol (3.59 g, 31.2 mmol) in 1,4-dioxane (8 mL) was mixed with potassium carbonate (4.55 g, 33.0 mmol), 1 M aqueous sodium hydroxide (2 mL) and benzyl chloroformate (5.20 mL, 36.4 mmol) under cooling with ice and stirred at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous potassium hydrogen sulfate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a colorless oil (6.41 g, yield 83%).

reactant | 3-Piperidinemethanol | 31.2 mmol, 3.59 g | N1CC(CCC1)CO | C6H13NO
reactant | potassium carbonate | 33.0 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 36.4 mmol, 5.20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Benzyl 3-(hydroxymethyl)piperidine-1-carboxylate | 6.41 g, yield 83% | OCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
